US07087601B2
Utilizing the general procedure outlined for 2-[3-methoxy-4-(1H-1,2,3-triazol-1-ylmethyl)phenyl]-1,3-benzoxazole, reaction of 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole (300 mg, 1.0 mmol) and pyrazole (70 mg, 1.0 mmol) afforded the desired 2-[3-methoxy-4-(1H-pyrazol-1-ylmethyl)phenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 7.60–7.91 (m, 7H), 7.38–7.41 (m, 2H), 6.54 (m, 1H), 5.81 (s, 2H), 4.11 (s, 3H). MS (ESI) 306 (M+H)+.

reactant | 2-[3-methoxy-4-(1H-1,2,3-triazol-1-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CN1N=NC=C1)C=1OC2=C(N1)C=CC=C2 | C17H14N4O2
reactant | 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole | 1.0 mmol, 300 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C15H12BrNO2
reactant | pyrazole | 1.0 mmol, 70 mg | N1N=CC=C1 | C3H4N2
product | 2-[3-methoxy-4-(1H-pyrazol-1-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CN1N=CC=C1)C=1OC2=C(N1)C=CC=C2 | C18H15N3O2
